US06274590B1
To a stirred solution of 4-(methylthio)benzonitrile (50 g, 340 mmol) in THF (2 L) at −78° C., was added methyllithium (282 ml, 1.4 M in diethyl ether, 390 mmol) over a period of ten minutes. The solution was stirred at −78° C. For one hour and then the dry ice bath was removed. After five hours, 100 ml of water followed by 200 ml of 3N HCl were added to the reaction mixture and it was stirred overnight. Concentration in vacuo gave a residue which was partitioned between ethyl acetate aid water. The water layer was extracted with three portions of ethyl acetate and the combined ethyl acetate layers were dried (MgSO4). Concentration in vacuo gave 58 g of crude 4-(methylthio)acetophenone as a yellow solid:

reactant | 4-(methylthio)benzonitrile | 340 mmol, 50 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | methyllithium | 390 mmol, 1.4 M, 282 ml | C[Li]
reactant | THF | 2 L | C1CCOC1 | C4H8O
product | 4-(methylthio)acetophenone | 58 g | CC(=O)C1=CC=C(C=C1)SC | C9H10OS
